US06752833B2
A polyethylene glycol terephtalate/polybutylene terephthalate copolymer may be synthesized from a mixture of dimethyl terephthalate, butanediol (in excess), polyethylene glycol, an antioxidant and a catalyst. The mixture is placed in a reaction vessel and heated to about 180° C., and methanol is distilled as transesterification proceeds. During the transesterification, the ester bond with methyl is replaced with an ester bond with butylene and/or the polyethylene glycol. After transesterification, the temperature is raised slowly to about 245° C., and a vacuum (finally less than 0.1 mbar) is achieved. The excess butanediol is distilled off and a prepolymer of butanediol terephthalate condenses with the polyethylene glycol to form a polyethylene/polybutylene terephthalate copolymer. A terephthalate moiety connects the polyethylene glycol units to the polybutylene terephthalate units of the copolymer and thus such a copolymer also is sometimes referred to as a polyethylene glycol terephthalate/polybutylene terephthalate copolymer (PEGT/PBT copolymer).

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | butanediol | C(CCC)(O)O | C4H10O2
product | butanediol terephthalate | C(C1=CC=C(C(=O)O)C=C1)(=O)O.C(CCC)(O)O | InChI=1S/C8H6O4.C4H10O2/c9-7(10)5-1-2-6(4-3-5)8(11)12;1-2-3-4(5)6/h1-4H,(H,9,10)(H,11,12);4-6H,2-3H2,1H3
